US07405236B2
a] 2-(1H-Indol-6-yl)-N-prop-2-ynyl-acetamide
Hydroxybenzotriazole (614 mg, 4.5 mmol), 4-ethylmorpholine (320 μl, 2.5 mmol), propargylamine (160 μl, 2.5 mmol) and 1-[3-(dimethylamino)-propyl]-3-ethylcarbodiimide hydrochloride (523 mg, 2.7 mmol) were added to an ice cold solution of (1H-indol-6-yl)-acetic acid (640 mg, 2.2 mmol; U.S. Pat. No. 4,894,386 A) in tetrahydrofuran (6.4 ml). The solution was naturally warmed to ambient temperature and stirred for 14 h. Ice water/brine 1/1 was added and the mixture was extracted two times with dichloromethane. The combined extracts were successively washed with 1 N HCl, brine, 1 N NaOH and brine, and dried over sodium sulfate. The solvent was removed under reduced pressure to give brown crystals which were recrystallized from heptane/dichloromethane to give 380 mg (1.8 mmol, 80%) of the title compound as colorless crystals.

reactant | Hydroxybenzotriazole | 4.5 mmol, 614 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | 4-ethylmorpholine | 2.5 mmol, 320 μl | C(C)N1CCOCC1 | C6H13NO
reactant | propargylamine | 2.5 mmol, 160 μl | C(C#C)N | C3H5N
reactant | 1-[3-(dimethylamino)-propyl]-3-ethylcarbodiimide hydrochloride | 2.7 mmol, 523 mg | Cl.CN(CCCN=C=NCC)C
reactant | (1H-indol-6-yl)-acetic acid | N1C=CC2=CC=C(C=C12)CC(=O)O | C10H9NO2
solvent | tetrahydrofuran | 6.4 ml | O1CCCC1 | C4H8O
product | 2-(1H-Indol-6-yl)-N-prop-2-ynyl-acetamide | 1.8 mmol, 380 mg, 80% | N1C=CC2=CC=C(C=C12)CC(=O)NCC#C | C13H12N2O
